US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-(3,3-difluorocyclobutyl)acetamide
To the mixture of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (1.09 g, 3 mmol) and 3,3-difluorocyclobutyl amine hydrochloride (1 g, 7 mmol) in DMF (10 ml), added PyBOP (1.56 g, 3 mmol) then triethyl amine (1.8 ml, 12 mmol). Stirring was kept for 3 hours. Diluted with EtOAc, washed with 1N HCl, water and brine. Dried over anhydrous sodium sulfate. Concentrated, the residue was dissolved in DMSO and purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column). The title compound was obtained as light yellow powder. MS calcd for (C19H20BF2N3O5S): 451.12. MS found (ESI negative): (M−H)−=450.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.79 (s, 1H), 9.15 (s, 1H), 8.48 (d, J=6.4 Hz, 1H), 7.43 (d, J=8.8 Hz, 1H), 7.39 (d, J=2 Hz, 1H), 7.20 (d, J=8.4 Hz, 1H), 7.09 (dd, J=8.4 Hz, 1H), 6.40 (d, J=2 Hz, 1H), 6.35 (dd, J=8.4 Hz, 1H), 5.92 (s, 2H), 4.85 (s, 2H), 4.05 (m, 1H), 3.75 (s, 2H), 2.89 (m, 2H), 2.59 (m, 2H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 3 mmol, 1.09 g | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | 3,3-difluorocyclobutyl amine hydrochloride | 7 mmol, 1 g | Cl.FC1(CC(C1)N)F
reactant | PyBOP | 3 mmol, 1.56 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethyl amine | 12 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-(3,3-difluorocyclobutyl)acetamide | NC=1C=CC(=C(C1)CC(=O)NC1CC(C1)(F)F)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C19H20BF2N3O5S
